US08426450B1
To the solution of crude 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-chloro-4-(o-tolyl)pyridine 1-oxide (5.1 g, 9.62 mmol) in 80 mL of n-BuOH was added N-methylpiperazine (7.41 g, 74.1 mmol) under N2 atmosphere. Then the solution was stirred at 80° C. overnight. Concentrated and purified by flash chromatography to afford 4.98 g 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-(4-methylpiperazin-1-yl)-4-(o-tolyl)pyridine 1-oxide as a white solid (Yield: 87.2%). 1HNMR (CDCl3, 400 MHz) δ 8.15 (s, 1H), 7.93 (s, 1H), 7.78 (s, 2H), 7.38 (m, 2H), 7.28 (m, 1H), 7.17 (m, 1H), 7.07 (s, 1H), 5.50 (s, 3H), 2.72 (d, J=4.4 Hz, 4H), 2.57 (m, 3H), 2.40 (s, 3H), 2.23 (s, 3H), 1.45-1.20 (m, 6H).

reactant | 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-chloro-4-(o-tolyl)pyridine 1-oxide | 9.62 mmol, 5.1 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=[N+](C1)[O-])Cl)C1=C(C=CC=C1)C)(C)C)(F)F | C25H21ClF6N2O2
reactant | N-methylpiperazine | 74.1 mmol, 7.41 g | CN1CCNCC1 | C5H12N2
solvent | n-BuOH | 80 mL | CCCCO | C4H10O
product | 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-(4-methylpiperazin-1-yl)-4-(o-tolyl)pyridine 1-oxide | 4.98 g, Yield: 87.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=[N+](C1)[O-])N1CCN(CC1)C)C1=C(C=CC=C1)C)(C)C)(F)F | C30H32F6N4O2
